US05179090
trans-5,11-dihydro-11-[[8-methyl-2,8-diazabicyclo[4.4.0]dec-2-yl]carbonyl]-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one
A mixture of 1.64 g (5.0 mmoles) of 11-(chlorocarbonyl)-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one, 0.8 g (5.2 mmoles) of 8-methyl-2,8-diazabicyclo[4.4.0]decane and 0.85 ml (6.0 mmoles) of triethylamine in 20 ml of tetrahydrofuran was stirred for 3 hours at ambient temperature. The reaction mixture was concentrated in vacuo and the residue was divided between ethyl acetate and dilute aqueous potassium carbonate solution. The organic phase was separated off, dried and concentrated in vacuo. Chromatographic purification took place on silica gel (30-60 μm) using the solvent mixture ethyl acetate/methanol/concentrated ammonia 70/30/1, v/v/v. The two main fractions were concentrated, ground with acetonitrile and the resulting precipitate was filtered off. 100 mg (5% of theory) of crystals of m.p. 230°-233° C., which were identified as trans compound using spectroscopic methods, were obtained from the main fraction eluted initially. The subsequent main fraction contained 200 mg (10% of theory) of the crystalline cis compound of m.p. 160°-161° C.

reactant | 11-(chlorocarbonyl)-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | 5.0 mmoles, 1.64 g | ClC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C13H8ClN3O2
reactant | 8-methyl-2,8-diazabicyclo[4.4.0]decane | 5.2 mmoles, 0.8 g | CN1CC2CCCNC2CC1 | C9H18N2
reactant | triethylamine | 6.0 mmoles, 0.85 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | trans-5,11-dihydro-11-[[8-methyl-2,8-diazabicyclo[4.4.0]dec-2-yl]carbonyl]-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | CN1C[C@H]2CCCN([C@@H]2CC1)C(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C22H25N5O2
